US08202885B2
To a solution of 0.26 g of 3-(3,4-diethoxy-phenyl)-N-methyl-propionamide in 5 mL THF was added 1.4 mL of a LiAlH4 solution (2.3M in THF) at 0° C. The reaction mixture was stirred for 1 h at rt and for 2 h at 60° C. At rt, a 1M NaOH solution was added dropwise. The resulting mixture was filtrated over a pad of celite, washed with THF and the filtrate concentrated in vacuo. Purification by CC with EtOAc-MeOH (7:3) yielded 0.13 g of [3-(3,4-diethoxy-phenyl)-propyl]-methyl-amine as yellow oil.

reactant | 3-(3,4-diethoxy-phenyl)-N-methyl-propionamide | 0.26 g | C(C)OC=1C=C(C=CC1OCC)CCC(=O)NC | C14H21NO3
reactant | LiAlH4 | 2.3M, 1.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [3-(3,4-diethoxy-phenyl)-propyl]-methyl-amine | 0.13 g | C(C)OC=1C=C(C=CC1OCC)CCCNC | C14H23NO2
